US07186742B2
2-Chloro-5-(2H-[1,2,3]triazol-4-yl)-benzoic acid
To a solution of 2-chloro-5-(2H-[1,2,3]triazol-4-yl)-benzoic acid methyl ester (0.095 g, 0.4 mmol) in methanol (2 mL) was added potassium hydroxide (0.25 g). The mixture was shaken at room temperature for 12 h. The mixture was diluted with methanol and acidified with HCl (2 mL, 6M). The mixture was concentrated in vacuo, diluted with water and sonicated. The solids were collected by filtration and washed with hexanes to afford the title compound (0.075 g).

reactant | 2-chloro-5-(2H-[1,2,3]triazol-4-yl)-benzoic acid methyl ester | 0.4 mmol, 0.095 g | COC(C1=C(C=CC(=C1)C1=NNN=C1)Cl)=O | C10H8ClN3O2
reactant | potassium hydroxide | 0.25 g | [OH-].[K+]
reactant | HCl | 6M, 2 mL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 2-Chloro-5-(2H-[1,2,3]triazol-4-yl)-benzoic acid | 0.075 g | ClC1=C(C(=O)O)C=C(C=C1)C1=NNN=C1 | C9H6ClN3O2
